US05015640
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and 2-butanone (2-hydroxyethyl) oxime, there is obtained 2-[(1-methylpropylideneamino)oxy]-ethyl 5,7- dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, mass spectrum m/e: M+ 351 (23), 281 (5), 237 (57), 194 (100), 114 (100), 70 (12);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | 2-butanone (2-hydroxyethyl) oxime | OCCON=C(C)CC | C6H13NO2
product | 2-[(1-methylpropylideneamino)oxy]-ethyl 5,7- dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCCON=C(CC)C)=N | C21H25N3O2
